US07678810B2
Di-tert-butyl dicarbonate (5.87 g) was added dropwise to a solution of 2-butylaminoethanol (3.00 g) in chloroform (30 ml), and the mixture was stirred for 15 minutes at room temperature. The solvent was evaporated off to yield tert-butyl butyl-(2-hydroxyethyl)carbamate (6.10 g) as a colorless oil.

reactant | Di-tert-butyl dicarbonate | 5.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-butylaminoethanol | 3.00 g | C(CCC)NCCO | C6H15NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl butyl-(2-hydroxyethyl)carbamate | 6.10 g | C(CCC)N(C(OC(C)(C)C)=O)CCO | C11H23NO3
